US09029528B2
(1) Synthesis of 2,3,4-tris(octadecyloxy)benzophenone
Under an argon atmosphere, 2,3,4-trihydroxybenzophenone (1.61 g, 7.00 mmol), 1-bromooctadecane (7.32 g, 22.0 mmol) and potassium carbonate (4.35 g, 31.5 mmol) were added to dehydrating N,N-dimethylformamide (30 mL), and the mixture was stirred at 80° C. overnight. After completion of the reaction, purified water (200 mL) was added to the reaction mixture, the mixture was stirred for 1 hr, and the precipitated solid was collected by filtration. The obtained solid was slurry-washed in methanol and, after filtration, dried under reduced pressure to give the title compound (6.31 g, 91.1%) as a white solid.

reactant | 2,3,4-trihydroxybenzophenone | 7.00 mmol, 1.61 g | OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1O)O | C13H10O4
reactant | 1-bromooctadecane | 22.0 mmol, 7.32 g | BrCCCCCCCCCCCCCCCCCC | C18H37Br
reactant | potassium carbonate | 31.5 mmol, 4.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 2,3,4-tris(octadecyloxy)benzophenone | 6.31 g, 91.1% | C(CCCCCCCCCCCCCCCCC)OC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C67H118O4
